US20010056092A1
3-(4-Bromo-2-[1 H-tetrazol-5-yl]-phenylamino)-4-(3-trifluoromethyl-phenylamino)-3-cyclobuten-1,2-dione:
0.29 g of 3-ethoxy-4-(3-trifluoromethylphenylamino)-3-cyclobuten-1,2-dione in 25 mL of acetonitrile was added 0.28 g of 4-bromo-2-(1H-tetrazol-5-yl)-phenylamine hydrochloride and 0.1 g of triethylamine. The reaction mixture was heated at reflux for 62 hours, the reaction mixture was concentrated to an oil, the oil was dissolved in ethyl alcohol (96%), to this solution was added hydrochloric acid (4M) and a solid precipitated. The product was isolated by filtration, washed with water and dried by pulling air though it on a glass filter. Yield 0.26 g (56%) mp. 150-165° C.

reactant | 3-ethoxy-4-(3-trifluoromethylphenylamino)-3-cyclobuten-1,2-dione | 0.29 g | C(C)OC=1C(C(C1NC1=CC(=CC=C1)C(F)(F)F)=O)=O | C13H10F3NO3
reactant | 4-bromo-2-(1H-tetrazol-5-yl)-phenylamine hydrochloride | 0.28 g | Cl.BrC1=CC(=C(C=C1)N)C1=NN=NN1
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 3-(4-Bromo-2-[1 H-tetrazol-5-yl]-phenylamino)-4-(3-trifluoromethyl-phenylamino)-3-cyclobuten-1,2-dione | BrC1=CC(=C(C=C1)NC=1C(C(C1NC1=CC(=CC=C1)C(F)(F)F)=O)=O)C1=NN=NN1 | C18H10BrF3N6O2
